US09388174B2
A reaction mixture solution was prepared by dissolving 1.97 g of ethyl [4-(methoxymethoxy)-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl]-4-methyl-1,3-thiazole-5-carboxylate in 25 mL of 1,4-dioxane and adding 5.0 mL of 2 M hydrochloric acid was heated under stirring at 60° C. for 8 hours. After the reaction mixture solution was cooled to room temperature, the precipitated solid was filtered to obtain 1.49 g of ethyl 2-[4-hydroxy-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl]-4-methyl-1,3-thiazole-5-carboxylate.

reactant | ethyl [4-(methoxymethoxy)-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl]-4-methyl-1,3-thiazole-5-carboxylate | 1.97 g | COCOC1=C(C=C(C=C1)C=1SC(=C(N1)C)C(=O)OCC)N1N=NN=C1 | C16H17N5O4S
reactant | hydrochloric acid | 2 M, 5.0 mL | Cl | ClH
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | ethyl 2-[4-hydroxy-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl]-4-methyl-1,3-thiazole-5-carboxylate | 1.49 g | OC1=C(C=C(C=C1)C=1SC(=C(N1)C)C(=O)OCC)N1N=NN=C1 | C14H13N5O3S
